US04501746
N-[(3-pyridyl)methyl]-N-(4-chlorophenyl)acetamide was prepared by reacting 5.0 g. of N-(4-chlorophenyl)-[(3-pyridyl)methyl]amine with 2.0 g. of acetyl chloride in 250 ml. containing 3.0 g. of triethylamine according to the method of Example 11. Weight 1.1 g. M.P. 64°-65° C.

reactant | N-(4-chlorophenyl)-[(3-pyridyl)methyl]amine | ClC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H11ClN2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[(3-pyridyl)methyl]-N-(4-chlorophenyl)acetamide | N1=CC(=CC=C1)CN(C(C)=O)C1=CC=C(C=C1)Cl | C14H13ClN2O
